US06727264B1
2-METHYL-N-(3-{1-[3-(4-METHYLPHENYL)-3-OXOPROPYL]-4-PIPERIDINYL}PHENYL)PROPANAMIDE:
Procedure K (KI) and Scheme E (K2CO3) using 3-chloro-1-(4-methylphenyl)-1-propanone and 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide: ESMS m/e: 393.2 (M+H)+.

reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | 3-chloro-1-(4-methylphenyl)-1-propanone | ClCCC(=O)C1=CC=C(C=C1)C | C10H11ClO
reactant | 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide | CC(C(=O)NC1=CC(=CC=C1)C1CCNCC1)C | C15H22N2O
product | 2-METHYL-N-(3-{1-[3-(4-METHYLPHENYL)-3-OXOPROPYL]-4-PIPERIDINYL}PHENYL)PROPANAMIDE | CC(C(=O)NC1=CC(=CC=C1)C1CCN(CC1)CCC(=O)C1=CC=C(C=C1)C)C | C25H32N2O2
